US05607948
10.0 g of 4-piperidinone hydrochloride was dissolved in 100 mg of dioxane and an aqueous solution (50 ml) of 5.7 g of NaOH, 16.1 g of (Boc)2O was added, and these were stirred for 2 hours while cooling with ice. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with an aqueous 10% citric acid solution, saturated NaHCO3, brine (twice each) and dried with magnesium sulfate. The solvent was removed by distillation under a reduced pressure, and hexane was added to the residue. The precipitate was filtered and dried to give 7.55 g of 1-t-butyloxycarbonyl-4-piperidinone.

reactant | 4-piperidinone hydrochloride | 10.0 g | Cl.N1CCC(CC1)=O
reactant | NaOH | 50 ml, 5.7 g | [OH-].[Na+]
reactant | (Boc)2O | 16.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 mg | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-t-butyloxycarbonyl-4-piperidinone | 7.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
